US05047404
3-Methylthio-8-oxo-6-(2-allyloxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine
A cooled (5° C.) solution of 3-methylthio-5-chloro-6-carboethoxy-1,2,4-triazine (prepared by heating 3-methylthio-5-oxo-6-carboethoxy-4,5-dihydro-1,2,4-triazine, 1.5 g, with thionyl chloride, 30 ml, under reflux for two hours and thereafter removing thionyl chloride) in acetonitrile (30 ml) was added to a cooled stirred mixture of 2-allyloxybenzamidine hydrochloride (2.23 g) and triethylamine (1.06 g) in acetonitrile (50 ml). The mixture was stirred with cooling (0°-5° C.) for 15 minutes, then more triethylamine (0.71 g) was added and the reaction mixture was stirred at ambient temperature for two hours and left standing overnight. A yellow precipitate was collected, washed with water and recrystallised from acetonitrile and then from acetonitrile/ethanol (50%) to afford the title compound, 0.35 g, m.p. 238°-239° C.

reactant | 3-methylthio-5-chloro-6-carboethoxy-1,2,4-triazine | CSC=1N=NC(=C(N1)Cl)C(=O)OCC | C7H8ClN3O2S
reactant | 3-methylthio-5-oxo-6-carboethoxy-4,5-dihydro-1,2,4-triazine | CSC1=NN=C(C(N1)=O)C(=O)OCC | C7H9N3O3S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-allyloxybenzamidine hydrochloride | 2.23 g | Cl.C(C=C)OC1=C(C(=N)N)C=CC=C1
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.71 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.06 g | C(C)N(CC)CC | C6H15N
product | 3-Methylthio-8-oxo-6-(2-allyloxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | CSC=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCC=C | C15H13N5O2S
